US04508730
(g) 1,7-Dihydro-3-hydroxy-6,7-dimethyl-5-phenylpyrrolo[3,4-e][1,4]diazepin-2(3H)-one
To a suspension of 3-acetoxy-1,7-dihydro-6,7-dimethyl-5-phenyl-pyrrolo[3,4-e][1,4]-diazepin-2(3H)-one (40 g) in ethanol (2000 ml), cooled to 5° C., 1N NaOH (128 ml) was added with stirring. After 10 minutes the reaction mixture was cooled to about 4° C. and allowed to stand at this temperature for one night. Then CO2 was gradually added to the solution to lower the pH to about 8. Ethanol was evaporated at the pump and the obtained residue was washed first with water and then with methanol, and crystallized from ethanol yielding 30 g of the compound of the title. M.p. 243° C. with decompostion.

reactant | 3-acetoxy-1,7-dihydro-6,7-dimethyl-5-phenyl-pyrrolo[3,4-e][1,4]-diazepin-2(3H)-one | 40 g | C(C)(=O)OC1N=C(C=2C(NC1=O)=CN(C2C)C)C2=CC=CC=C2 | C17H17N3O3
reactant | NaOH | 1N, 128 ml | [OH-].[Na+]
reactant | CO2 | C(=O)=O | CO2
solvent | ethanol | 2000 ml | C(C)O | C2H6O
product | 1,7-Dihydro-3-hydroxy-6,7-dimethyl-5-phenylpyrrolo[3,4-e][1,4]diazepin-2(3H)-one | OC1N=C(C=2C(NC1=O)=CN(C2C)C)C2=CC=CC=C2 | C15H15N3O2
